US06943184B2
Step 1: Methyl 1-[(tert-butoxycarbonyl)amino]cyclopropanecarboxylate
A solution of 80 g of 1-(methoxycarbonyl)cyclopropane carboxylic acid and 78 ml of triethylamine in 550 ml of toluene, to which 152 g of diphenylphosphoryl azide are added, is heated at 80° C. After the evolution of gas has ceased, the temperature is brought to 50° C. and 61 g of tert-butanol are added. After reacting for 7 hours at 80° C., the mixture is concentrated. The residue is taken up in ether, washed with saturated Na2CO3 solution, then with 1N hydrochloric acid solution and then with NaHCO3 solution. After drying and evaporation of the organic phase, the residue is taken up in 300 ml of cyclohexane and then concentrated to dryness. The residue obtained is triturated in pentane, filtered and then dried, allowing the expected product to be isolated.

reactant | 1-(methoxycarbonyl)cyclopropane carboxylic acid | 80 g | COC(=O)C1(CC1)C(=O)O | C6H8O4
reactant | triethylamine | 78 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 152 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butanol | 61 g | C(C)(C)(C)O | C4H10O
solvent | toluene | 550 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 1-[(tert-butoxycarbonyl)amino]cyclopropanecarboxylate | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)OC | C10H17NO4
